US07956216B2
117A: Methyl 3-iodobenzoate
3-iodobenzoic acid (7.44 g, 30 mmol) was suspended in dry MeOH (40 mL) under nitrogen at 0° C. SOCl2 (3.3 mL) was added over 5 minutes. Stirring continued at room temperature for 16 hours, after which the reaction mixture was concentrated. The residue was dissolved in EtOAc and was washed twice with NaHCO3 (conc.). The organic solution was dried over MgSO4, filtered and concentrated to yield a white crystalline solid (7.32 g, 93%). NMR 1H (ppm, CDCl3): 8.36 (t, J4=1.6 Hz, 1H), 7.98 (d, J3=7.8 Hz, 1H), 7.86 (d, J3=7.9 Hz, 1H), 7.16 (t, J3=7.8 Hz, 1H), 3.90 (s, 3H).

reactant | 3-iodobenzoic acid | 30 mmol, 7.44 g | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
reactant | SOCl2 | 3.3 mL | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 40 mL | CO | CH4O
product | Methyl 3-iodobenzoate | 7.32 g, 93% | IC=1C=C(C(=O)OC)C=CC1 | C8H7IO2
